US07087601B2
A suspension of [4-(1,3-benzoxazol-2-yl)-2-nitrophenyl]acetonitrile (100 mg, 0.36 mmol) and Pd/C (20 mg) in EtOH/EtOAc (5:1, 60 mL) was hydrogenated (35 psi) over 2d. The resulting reaction mixture was filtered through Celite and the filtrate was evaporated to dryness. The yellow solid obtained was purified by flash chromatography on silica gel eluting with MeOH:CH2Cl2 (1:19) to afford [2-amino-4-(1,3-benzoxazol-2-yl)phenyl]acetonitrile as an orange solid (M.p. 198–199° C.). 1H NMR (CDCl3, 300 MHz) δ 7.77 (m, 1H), 7.71–7.66 (m, 2H), 7.58 (m, 1H), 7.40–7.34 (m, 3H), 3.88 (s, 2H), 3.66 (s, 2H). MS (ESI) 250 (M+H)+.

reactant | [4-(1,3-benzoxazol-2-yl)-2-nitrophenyl]acetonitrile | 0.36 mmol, 100 mg | O1C(=NC2=C1C=CC=C2)C2=CC(=C(C=C2)CC#N)[N+](=O)[O-] | C15H9N3O3
solvent | EtOH EtOAc | 60 mL | CCO.CCOC(=O)C
catalyst | Pd/C | 20 mg | [Pd] | Pd
product | [2-amino-4-(1,3-benzoxazol-2-yl)phenyl]acetonitrile | NC1=C(C=CC(=C1)C=1OC2=C(N1)C=CC=C2)CC#N | C15H11N3O
